US05807857
1. 3-(5-[1,2,4-Triazol-4-yl]-1H-indol-3-yl)propan-1-ol
A solution of 4'-(1,2,4-triazol-4-yl)phenylhydrazine (25 g, 143 mmol) in dioxan (250 ml) was treated with dihydropyran (24 g, 286 mmol) followed by 1M hydrochloric acid (150 ml) and heated at reflux for 18 hours. The reaction mixture was evaporated with toluene then reevaporated. Inorganic solids were removed by treating the residue with a mixture of methanol and acetonitrile. The mother liquors were purified by column chromatography on silica using dichloromethane:methanol (9:1→4:1) as the eluant. The compound was recrystallised from acetonitrile to afford the title compound as a white solid (10.24 g, 30%), mp 205°-207° C. δ (360 MHz, d6 -DMSO) 1.81 (2H, quintet, J=7Hz, CH2), 2.75 (2H, t, J=8Hz, CH2), 3.46 (2H, dt, J1 =6Hz, J2 =5Hz, CH2), 4.43 (1H, t, J=5Hz, OH), 7.26 (1H, d, J=2Hz, Ar-H), 7.29 (1H, dd, J1 =9Hz, J2 =2Hz, Ar-H), 7.47 (1H, d, J=9Hz, Ar-H), 7.77 (1H, d, J=2Hz, Ar-H), 9.01 (2H, s, Triazole-H), 11.05 (1H, br s, indole NH). MS, CI+, m/z for (M+H)+ =243.

reactant | 4'-(1,2,4-triazol-4-yl)phenylhydrazine | 143 mmol, 25 g | C1=CC(=CC=C1NN)N2C=NN=C2 | C8H9N5
reactant | dihydropyran | 286 mmol, 24 g | O1CCCC=C1 | C5H8O
reactant | hydrochloric acid | 1M, 150 ml | Cl | ClH
solvent | dioxan | 250 ml | O1CCOCC1 | C4H8O2
product | 3-(5-[1,2,4-Triazol-4-yl]-1H-indol-3-yl)propan-1-ol | 10.24 g, 30% | N=1N=CN(C1)C=1C=C2C(=CNC2=CC1)CCCO | C13H14N4O
